US08431695B2
Preparation of 7-{1-[(dimethylamino)acetyl]piperidin-4-yl}-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
A mixture 5-(2-phenyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (80 mg, 0.20 mmol), N,N-dimethylglycine (22 mg, 0.22 mmol), EDCl (41 mg, 022 mmol), HOBt (29 mg, 0.22 mmol), and N,N-diisopropylethylamine (102 μL, 0.59 mmol) in DMF (1 mL) was stirred at rt for 17 h. The residue was purified by preparative HPLC using a gradient elution from 15% to 45% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated to provide 22 mg (23%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 9.16 (s, 1 H), 8.11 (d, 2 H), 7.93 (s, 1 H), 7.85 (d, 1 H), 7.69 (s, 1 H), 7.56-7.62 (m, 2 H), 7.45 (t, 1 H), 7.23 (dd, 1 H), 6.66 (s, 1 H), 4.31 (dd, 1 H), 3.36-3.51 (m, 1 H), 3.08-3.24 (m, 2 H), 3.01-3.06 (m, 1 H), 2.63-2.80 (m, 1 H), 2.18 (s, 6 H), 1.99-2.12 (s, 2 H), 1.44-1.77 (m, 1 H); ES-MS m/z 495.18 [M+H]+, HPLC RT (min) 2.13.

reactant | 5-(2-phenyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.20 mmol, 80 mg | C1(=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C24H23N7
reactant | N,N-dimethylglycine | 0.22 mmol, 22 mg | CN(CC(=O)O)C | C4H9NO2
reactant | EDCl | 41 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.22 mmol, 29 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.59 mmol, 102 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 7-{1-[(dimethylamino)acetyl]piperidin-4-yl}-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 22 mg, 23% | CN(C)CC(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)C2=CC=CC=C2 | C28H30N8O
